OP-AMP passband

.inc uA741.inc

.options savecurrents

Vcc vcc 0 10.0
Vee vee 0 -10.0
Vin vin 0 0 ac 1.0 sin(0 700m 1k)

X1 in inv_in vcc vee out uA741

* non-inv +
C1 vin in 220n
*C1b vin in 220n
R1 in 0 2k
*R1b in 0 1k

* inv -
R3 inv_in r3b 100k
R3b r3b out 100k
R3c r3b out 100k

R4 inv_in 0 1k
*R4b inv_in 0 2k
*R4c inv_in 0 10k

* load
R2 out vout 1k
*R2b out vout 1k
C2 vout 0 110n
*C2b c2bb 0 220n

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



*op
*print all

* time analysis
tran 1e-5 1e-2
*plot v(out)
*hardcopy lab-vo1.ps v(vout)

*input impedance in kohm
print v(in)[40]/@R1[i][40]/1000


* frequency analysis
ac dec 10 10 100k
*plot vdb(out)
*plot vp(out)
hardcopy lab-vo1f.ps vdb(vout)


echo ""
echo "****************"
echo "* Cut-off Freq *"
echo "****************"

* cut-off freqs

let Av_db = vdb(vout)-vdb(vin)
meas ac voltGainDB MAX Av_db
let Av_m = vm(vout)/vm(vin)
meas ac voltGain MAX Av_m
let voltG3 = voltGainDB-3
*print voltG3

meas ac lowCOf WHEN Av_db=voltG3
meas ac highCOf WHEN Av_db=voltG3 CROSS=LAST

let avgCOf = sqrt(lowCOf*highCOf)
print avgCOf

echo ""
echo "* op-amp *"
echo ""

let in_m = vm(in)/vm(vin)
meas ac inGain MAX in_m
let out_m = vm(out)/vm(vin)
meas ac outGain MAX out_m


echo ""
echo "*********"
echo "* merit *"
echo "*********"

let gain_deviation = abs(voltGainDB - 40)
let f_deviation = abs(avgCOf - 1k)
let cost = (100*3 + 1*3) + (0.220*3)
let merit = 1/(cost*gain_deviation*f_deviation)
print gain_deviation f_deviation cost merit

echo ""
echo "****************"
echo "* relative dev *"
echo "****************"

let gain_perc = gain_deviation/40*100
let f_perc = f_deviation/1k*100
print gain_perc f_perc


*need a different setup to measure output impedance

quit
.endc 

