OP-AMP passband

.inc uA741.inc

.options savecurrents

Vcc vcc 0 10.0
Vee vee 0 -10.0
Vin vin 0 0 ac 1.0 sin(0 700m 1k)

X1 in_p inv_in vcc vee out uA741

* non-inv +
C1 vin in_p 220n
R1 in_p 0 1k

* inv -
R3 inv_in r3b 100k
R3b r3b out 100k
R3c r3b out 100k

R4 inv_in 0 1k

* load
R2 out vo 1k
C2 vo 0 110n

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=rgb:0/9/9
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



*op
*print all

* time analysis
*tran 1e-5 1e-2
*plot v(out)
*hardcopy lab-vo1.ps v(vo) v(vin)
*print v(vin)[45] v(vo)[45]




echo ""
echo "**********************"
echo "* frequency analysis *"
echo "**********************"

ac dec 10 10 100k
*plot vdb(out)
*plot vp(out)
hardcopy lab-vo1f.ps vdb(vo) vp(vo)*180/pi


echo ""
echo "****************"
echo "* Cut-off Freq *"
echo "****************"

* cut-off freqs

let Av_db = vdb(vo)-vdb(vin)
meas ac voltGainDB MAX Av_db
let Av_m = vm(vo)/vm(vin)
meas ac voltGain MAX Av_m
let voltG3 = voltGainDB-3
*print voltG3

meas ac lowCOf WHEN Av_db=voltG3
meas ac Maxf MAX_AT Av_db
meas ac highCOf WHEN Av_db=voltG3 CROSS=LAST

let avgCOf = sqrt(lowCOf*highCOf)
print avgCOf

echo ""
echo "* op-amp *"
echo ""

let in_m = vm(in_p)/vm(vin)
meas ac inGain MAX in_m
let out_m = vm(out)/vm(vin)
meas ac outGain MAX out_m


echo ""
echo "*********"
echo "* merit *"
echo "*********"

let gain_deviation = abs(voltGainDB - 40)
let f_deviation = abs(avgCOf - 1k)
let cost = (100*3 + 1*3) + (0.220*3)
let merit = 1/(cost*gain_deviation*f_deviation)
print gain_deviation f_deviation cost merit

echo ""
echo "****************"
echo "* relative dev *"
echo "****************"

let gainperc = gain_deviation/40*100
let fperc = f_deviation/1k*100
print gainperc fperc


echo ""
echo "******************"
echo "* impedance ohm *"
echo "******************"
*input impedance in ohm
print abs(v(vin)[20]/vin#branch[20]/(-1))

let Zin = v(vin)[20]/vin#branch[20]/(-1)
let real=Re(Zin)
let imag=Im(Zin)
let absl=abs(Zin)


***************************** TABLES ******************************
echo ""
echo "**********"
echo "* TABLES *"
echo "**********"

echo "inputZ_TAB"
echo "Zin = $&real + $&imag j"
echo " $|$\ Zin $|$\ = $&absl"
echo "inputZ_END"

let CentralFreq = avgCOf
let CentralFreqDev = f_deviation
let gainDeviation = gain_deviation
echo "merit_TAB"
print voltGainDB
print gainDeviation
print CentralFreq
print CentralFreqDev
print cost
print merit
echo "merit_END"


echo "zin_TAB"
echo "$&absl"
echo "zin_END"

echo "gain1_TAB"
echo "$&voltGain"
echo "gain1_END"
echo "gain2_TAB"
echo "$&voltGainDB"
echo "gain2_END"

echo "freq1_TAB"
echo "$&lowCOf"
echo "freq1_END"
echo "freq2_TAB"
echo "$&highCOf"
echo "freq2_END"
echo "freq3_TAB"
echo "$&CentralFreq"
echo "freq3_END"

echo "percentages_TAB"
print gainperc fperc
echo "percentages_END"


*need a different setup to measure output impedance

quit
.endc 

